US07514457B2
5A) 5-(Aminomethyl)-1-methyl-1,3-dihydro-2H-benzimidazol-2-one, hydrochloride
The suspension of 1-methyl-2-oxo-2,3-dihydro-1H-benzimidazole-5-carbonitrile (1.84 g, 10.6 mmol) in MeOH (30 ml) and 38% HCl aqueous solution (5.0 ml) was treated with 10% Pd—C (500 mg) and the mixture was stirred for 50 hours at room temperature under hydrogen atmosphere (4.0 kgf/cm2). After the filtration to remove Pd—C, the filtrate was evaporated to give the crude residue, which was dissolved in EtOAc/38% HCl aqueous solution/water (30:1:30). After washing the aqueous phase with EtOAc, water was removed under reduced pressure, followed by recrystallization from DCM-MeOH to furnish the title compound as a dark pink colored solid (1.45 g, 64%). 1H NMR (CDCl3): δ 3.27 (3H, s), 3.99 (2H, m), 6.90 (3H, m), 8.42 (2H, brs), 11.1 (1H, s). MS (ESI) m/z 179 (M+H)+.

reactant | 1-methyl-2-oxo-2,3-dihydro-1H-benzimidazole-5-carbonitrile | 10.6 mmol, 1.84 g | CN1C(NC2=C1C=CC(=C2)C#N)=O | C9H7N3O
reactant | HCl | 5.0 ml | Cl | ClH
solvent | MeOH | 30 ml | CO | CH4O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
catalyst | Pd—C | 500 mg | [Pd] | Pd
product | 5-(Aminomethyl)-1-methyl-1,3-dihydro-2H-benzimidazol-2-one, hydrochloride | 1.45 g, 64% | Cl.NCC1=CC2=C(N(C(N2)=O)C)C=C1 | InChI=1S/C9H11N3O.ClH/c1-12-8-3-2-6(5-10)4-7(8)11-9(12)13;/h2-4H,5,10H2,1H3,(H,11,13);1H
